US06908989B2
2,3,4,6-Tetra-O-benzyl-1-O-(1-phenyl-1-carboxy-eth-2-yl)-mannopyranose
A mixture that consists of 54.1 g (100 mmol) of 2,3,4,6-tetra-O-benzyl-mannopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 35.8 g (110 mmol) of fine-powder cesium carbonate in 400 ml of diethoxymethane is cooled to 0° C. At 0° C., 38.6 g (150 mmol) of 2-phenyl-3-bromopropionic acid-ethyl ester is added in drops and dissolved in 30 ml of diethoxymethane over 10 minutes while being stirred vigorously. It is stirred for one hour at 0° C. 250 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol/50 ml of water. 60 ml of 50% aqueous sodium hydroxide solution is added, and it is refluxed for four hours. It is cooled to 0° C., set at pH 8 with 10% aqueous hydrochloric acid, and then the solvent is distilled off (vacuum). The residue is taken up in 300 ml of water and 500 ml of ethyl acetate, and the pH of the aqueous phase is set at 2 while being stirred (10% aqueous hydrochloric acid). The organic phase is separated, and the aqueous phase is extracted once more with 200 ml of ethyl acetate. The combined organic phases are dried on magnesium sulfate, the solvent is distilled off in a vacuum, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-benzyl-mannopyranose | 100 mmol, 54.1 g | C(C1=CC=CC=C1)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-phenyl-3-bromopropionic acid-ethyl ester | 150 mmol, 38.6 g | C(C)OC(C(CBr)C1=CC=CC=C1)=O | C11H13BrO2
reactant | MTB | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethoxymethane | 400 ml | C(C)OCOCC | C5H12O2
solvent | diethoxymethane | 30 ml | C(C)OCOCC | C5H12O2
product | 2,3,4,6-Tetra-O-benzyl-1-O-(1-phenyl-1-carboxy-eth-2-yl)-mannopyranose | C(C1=CC=CC=C1)O[C@@H]1C(OCC(C(=O)O)C2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C43H44O8
